US07304156B2
In a 50 mL-volume glass flask equipped with a stirrer, a thermometer and a reflux condenser were placed 3.0 g (7 mmol.) of 4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonyl-2-trifluoromethanesulfonyloxypyrimidine, 1.13 g (10.5 mmol.) of N-methylmethanesulfonamide. 1.45 g (10.5 mmol.) of potassium carbonate (available from Wako Junyaku Co., Ltd., special grade), and 14 mL of butyl acetate. The mixture was heated to 122-125° C. for 3 hours under refluxing, to carry out reaction. After the reaction was complete, the reaction mixture was cooled to room temperature. To the reaction mixture were added 10 mL of water and 7 mL of acetone, and the organic liquid portion was separated. The organic liquid portion was washed with a saturated aqueous sodium chloride solution and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (column: Wako Gel C-200, eluent: hexane/ethyl acetate (5:1, volume ratio)). There was obtained 2.1 g of 4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonyl-2-(N-methyl-N-methanesulfonylamino)pyrimidine as a white crystalline product. The yield was 78% (based on the amount of 4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonyl-2-trifluoromethanesulfonyloxypyrimidine).

reactant | 4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonyl-2-trifluoromethanesulfonyloxypyrimidine | 7 mmol, 3.0 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1C(=O)OC)C(C)C)OS(=O)(=O)C(F)(F)F | C16H14F4N2O5S
reactant | N-methylmethanesulfonamide | 10.5 mmol, 1.13 g | CNS(=O)(=O)C | C2H7NO2S
reactant | potassium carbonate | 10.5 mmol, 1.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | butyl acetate | 14 mL | C(C)(=O)OCCCC | C6H12O2
solvent | acetone | 7 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
product | 4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonyl-2-(N-methyl-N-methanesulfonylamino)pyrimidine | 2.1 g, yield was 78% | FC1=CC=C(C=C1)C1=NC(=NC(=C1C(=O)OC)C(C)C)N(S(=O)(=O)C)C | C17H20FN3O4S
